US07030123B2
A solution of 5-benzyloxy-2-amino-1H-indole-3-carbonitrile (2.96 g; 11.25 mmol) in DMF (20 ml) under argon was treated at room temperature with Cs2CO3 (4.4 g; 13.5 mmol). The mixture was stirred and treated dropwise with methyl iodide (0.84 ml; 13.48 mmol). Stirring was continued for 1 hour when the mixture was poured into water. The precipitate was filtered, washed with water and dried to give 5-benzyloxy-2-amino-1-methyl-1H-indole-3-carbonitrile as a beige solid (2.77 g).

reactant | 5-benzyloxy-2-amino-1H-indole-3-carbonitrile | 11.25 mmol, 2.96 g | C(C1=CC=CC=C1)OC=1C=C2C(=C(NC2=CC1)N)C#N | C16H13N3O
reactant | Cs2CO3 | 13.5 mmol, 4.4 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | methyl iodide | 13.48 mmol, 0.84 ml | CI | CH3I
reactant | water | O | H2O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 5-benzyloxy-2-amino-1-methyl-1H-indole-3-carbonitrile | 2.77 g | C(C1=CC=CC=C1)OC=1C=C2C(=C(N(C2=CC1)C)N)C#N | C17H15N3O
